US06323223B1
Trifluoroacetic acid (50 ml) was added to a solution of 1-(tert-butoxycarbonyl)-4-(3,4-dichlorobenzyl)piperidine (24 g, 69.7 mmol) in methylene chloride (150 ml) and the reaction mixture was stirred for 1 h. The solvent was removed under reduced pressure, followed by addition of ethyl acetate (200 ml), and the resulting mixture was made basic with 1N aqueous sodium hydroxide. The organic layer was separated, dried over magnesium sulfate and the solvent was removed under reduced pressure to give 4-(3,4-dichlorobenzyl)piperidine (17.1 g) as light brown solid.

reactant | Trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(tert-butoxycarbonyl)-4-(3,4-dichlorobenzyl)piperidine | 69.7 mmol, 24 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC(=C(C=C1)Cl)Cl | C17H23Cl2NO2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-(3,4-dichlorobenzyl)piperidine | 17.1 g | ClC=1C=C(CC2CCNCC2)C=CC1Cl | C12H15Cl2N
